US04568751
5-Acetyl-6-Methyl-2(1H)-Pyridinone
5-acetyl-1,2-dihydro-6-methyl-2-oxo-3-pyridinecarbonitrile (2.32 g, 0.013 mole) and concentrated HCl (50 ml) were heated and stirred at reflux under an argon atmosphere for 5 hours. Upon cooling to room temperature a solid precipitated. The solid was collected by filtration and allowed to air dry. The dry solid (1.25 g) was heated to 280°-290° C. and maintained at this temperature for 7 minutes. The residue was allowed to cool to room temperature then extracted into methylene chloride. Concentration of the methylene chloride solution followed by flash chromatography (50% methylene chloride-ethyl acetate) gave 0.46 g m.pt. 201°-202° C. (1:t 196°-198° C.).

reactant | 5-acetyl-1,2-dihydro-6-methyl-2-oxo-3-pyridinecarbonitrile | 0.013 mole, 2.32 g | C(C)(=O)C=1C=C(C(NC1C)=O)C#N | C9H8N2O2
solvent | HCl | 50 ml | Cl | ClH
product | 5-Acetyl-6-Methyl-2(1H)-Pyridinone | C(C)(=O)C=1C=CC(NC1C)=O | C8H9NO2
